US06313312B1
1-[(E)-3-Chloro-1-methyl-1-propenyl]-3-nitrobenzene
To a solution of N-chlorosuccinimide (52.3 g, 0.39 mol) in dichloromethane (800 ml) at 0° C. was added dropwise over 1 h dimethylsulfide (27.9 ml, 0.38 mol). To the mixture was added dropwise over 30 min at 0° C. a solution of (E)-3-(3-nitrophenyl)-2-buten-1-ol (Preparation 2, 72 g, 0.373 mol) in dichloromethane (200 ml). The mixture was warmed to room temperature over 1 h, then poured onto brine (500 ml). The layers were separated, and the aqueous layer extracted with ether (500 ml). The organic extracts were combined, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by silica column chromatography, eluting with 10:1 hexane/ethyl acetate, then kas a gradient up to 4:1 hexane/ethyl acetate. Appropriate fractions were combined and concentrated in vacuo to give the title compound as a very pale yellow solid (69 g, 88%).

reactant | N-chlorosuccinimide | 0.39 mol, 52.3 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethylsulfide | 0.38 mol, 27.9 ml | CSC | C2H6S
reactant | (E)-3-(3-nitrophenyl)-2-buten-1-ol | 0.373 mol, 72 g | [N+](=O)([O-])C=1C=C(C=CC1)/C(=C/CO)/C | C10H11NO3
solvent | dichloromethane | 800 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1-[(E)-3-Chloro-1-methyl-1-propenyl]-3-nitrobenzene | ClC/C=C(\C)/C1=CC(=CC=C1)[N+](=O)[O-] | C10H10ClNO2
